US07429665B2
8-Methoxy-2-[4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline
Following the procedure for the preparation of 2-{4-[4-Pyridin4-yl-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-3-yl]-phenoxymethyl}-quinoxaline but substituting 4-(1-Methyl4-pyridin4-yl-1H-pyrazol-3-yl)-phenol and (8-Methoxy-quinolin-2-yl)-methanol provided the title compound. 1H NMR (400 MHz, CDCl3) δ 8.45 (d, J=6.2 Hz, 2 H), 8.15 (d, J=8.7 Hz, 1H), 7.73 (d, J=8.3 Hz,1H), 7.55 (s, 1H), 7.44 (m, 1 H), 7.37 (m, 3 H), 7.15 (d, J=5.8, Hz, 2 H), 7.07 (d, J=7.5 Hz, 1H), 6.99 (d, J=8.7 Hz, 2 H), 5.46 (s, 2H), 4.08 (s, 3 H), 3.94 (s, 3H); MS: (M+H m/z=423.1).

reactant | 2-{4-[4-Pyridin4-yl-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-3-yl]-phenoxymethyl}-quinoxaline | N1=CC=C(C=C1)C=1C(=NN(C1)CC(F)(F)F)C1=CC=C(OCC2=NC3=CC=CC=C3N=C2)C=C1 | C25H18F3N5O
reactant | 4-(1-Methyl4-pyridin4-yl-1H-pyrazol-3-yl)-phenol | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(C=C1)O | C15H13N3O
reactant | (8-Methoxy-quinolin-2-yl)-methanol | COC=1C=CC=C2C=CC(=NC12)CO | C11H11NO2
product | 8-Methoxy-2-[4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | COC=1C=CC=C2C=CC(=NC12)COC1=CC=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)C | C26H22N4O2
